US04956359
1-[3-(3,4-Dichlorophenoxy)-1-azetidinylcarbonyl]-4-(2-pyridinyl)piperazine
A stirred solution of 2.8 g (0.01 mole) of 3-(3,4-dichlorophenoxy)-1-azetidinecarbonyl chloride in 25 ml of tetrahydrofuran was treated in turn with 1.6 g (0.01 mole) of 1-(2-pyridyl)piperazine and 1.4 g (0.01 mole) of potassium carbonate. After 30 min, a solid had precipitated which dissolved when approximately 2 g of ice was added. After stirring for 18 hr, the reaction mixture was diluted with 200 ml of water and a paste-like solid separated which was filtered to yield 3.3 g of crude product. After several attempts to recrystallization from methyl isobutyl ketone, it was recrystallized from acetonitrile to yield 1.25 g (30.7%) of fine white crystals, m.p. 153.5°-154.5° C.

reactant | 3-(3,4-dichlorophenoxy)-1-azetidinecarbonyl chloride | 0.01 mole, 2.8 g | ClC=1C=C(OC2CN(C2)C(=O)Cl)C=CC1Cl | C10H8Cl3NO2
reactant | 1-(2-pyridyl)piperazine | 0.01 mole, 1.6 g | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
reactant | potassium carbonate | 0.01 mole, 1.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 1-[3-(3,4-Dichlorophenoxy)-1-azetidinylcarbonyl]-4-(2-pyridinyl)piperazine | 1.25 g, 30.7% | ClC=1C=C(OC2CN(C2)C(=O)N2CCN(CC2)C2=NC=CC=C2)C=CC1Cl | C19H20Cl2N4O2
